US06174901B1
Preparation 6-((S)-2-Amino-3-phenylpropylamino)-3-(3-methylphenyl)-2-(4-pyridyl)pyridine
To a stirred, degassed mixture of 6-((S)-2-Amino-3-phenylpropylamino)-3-bromo-2-(4-pyridyl)pyridine (4.2 gm, 10.9 mmole), 3-methylbenzene boronic acid (1.8 gm, 13 mmole), in aqueous 2 M Na2CO3 (50 mL) and toluene (50 mL) at rt was added Pd(PPh3)4(400 mg, 0.35 mmole). The mixture was heated to reflux for 12 hrs, cooled to rt, and extracted with toluene. The combined organic layers were washed with brine, concentrated and purified (SiO2, CH2Cl2/MeOH/NH4OH: 100/11/8) to give the title compound. MS (m/z): Calcd. C26H26N4 (M+): 394, found (M+H)+: 395.1.

reactant | 6-((S)-2-Amino-3-phenylpropylamino)-3-bromo-2-(4-pyridyl)pyridine | 10.9 mmole, 4.2 gm | N[C@H](CNC1=CC=C(C(=N1)C1=CC=NC=C1)Br)CC1=CC=CC=C1 | C19H19BrN4
reactant | 3-methylbenzene boronic acid | 13 mmole, 1.8 gm | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | Na2CO3 | 2 M, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.35 mmole, 400 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 6-((S)-2-Amino-3-phenylpropylamino)-3-(3-methylphenyl)-2-(4-pyridyl)pyridine | N[C@H](CNC1=CC=C(C(=N1)C1=CC=NC=C1)C1=CC(=CC=C1)C)CC1=CC=CC=C1 | C26H26N4
